US05446153
1-n-Butyl-2,6-dimethyl-N4,N4 -bis(phenylmethyl)-1H-imidazo[4,5-c]pyridin-4-amine
N4 -n-Butyl-6-methyl-N2, N2 -bis(phenylmethyl)pyridine-2,3,4-triamine (0.65 g, 1.7 mmole) was combinedwith toluene (10 mL) and acetyl chloride (0.12 mL, 1.7 mmole) and stirred at ambient temperature for 15 minutes. Phosphorous oxychloride (0.31 mL) was added and the reaction mixture was heated at reflux overnight. The reaction mixture was evaporated. The residue was purified by silica gel column chromatography eluting with hexane:ethyl acetate (70:30) to provide0.18 g of the desired product.

reactant | N4 -n-Butyl-6-methyl-N2, N2 -bis(phenylmethyl)pyridine-2,3,4-triamine | 1.7 mmole, 0.65 g | C(CCC)NC1=C(C(=NC(=C1)C)N(CC1=CC=CC=C1)CC1=CC=CC=C1)N | C24H30N4
reactant | acetyl chloride | 1.7 mmole, 0.12 mL | C(C)(=O)Cl | C2H3ClO
reactant | Phosphorous oxychloride | 0.31 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 1-n-Butyl-2,6-dimethyl-N4,N4 -bis(phenylmethyl)-1H-imidazo[4,5-c]pyridin-4-amine | C(CCC)N1C(=NC=2C(=NC(=CC21)C)N(CC2=CC=CC=C2)CC2=CC=CC=C2)C | C26H30N4
